US07829584B2
(5-Aminomethyl-benzo[d]isoxazol-3-yl)-carbamic Acid Tert-butyl Ester
A mixture of 2-[3-(tert-butoxycarbonyl)amino-benzo[d]isoxazol-5-ylmethyl]-isoindole-1,3-dione (1.31 g) and hydrazine hydrate (2.52 mL, 52 mmol) in 1-butanol (10 mL) was stirred at room temperature. The mixture turned into a translucent orange solution. After stirring for about 1 hr, white precipitate formed. The mixture was then heated to reflux for 5 min and all solid dissolved. After cooling, DCM was added, after which time white precipitate formed. The solid was filtered off and washed with DCM. Rotary evaporation afforded a yellow oil. The oily residue was taken up with EtOAc (100 mL) and washed with water (3×30 mL), brine (30 mL) and dried over anhydrous sodium sulfate. Most solvent was removed on a rotary evaporator and the remainder was loaded onto a 20 g ISOLUTE silica cartridge. The product was eluted with (2 M ammonia in methanol)/DCM (4:96). A light yellow solid was obtained (330 mg). 1H-NMR (300 MHz, CDCl3) δ 8.05 (s, 1H), 7.53 (d, 1H), 7.45 (d, 1H), 7.31 (s, 1H), 3.40 (s, 2H), 1.57 (s, 9H).

reactant | 2-[3-(tert-butoxycarbonyl)amino-benzo[d]isoxazol-5-ylmethyl]-isoindole-1,3-dione | 1.31 g | C(C)(C)(C)OC(=O)NC1=NOC2=C1C=C(C=C2)CN2C(C1=CC=CC=C1C2=O)=O | C21H19N3O5
reactant | hydrazine hydrate | 52 mmol, 2.52 mL | O.NN
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | 1-butanol | 10 mL | C(CCC)O | C4H10O
product | (5-Aminomethyl-benzo[d]isoxazol-3-yl)-carbamic Acid Tert-butyl Ester | C(C)(C)(C)OC(NC1=NOC2=C1C=C(C=C2)CN)=O | C13H17N3O3
